US07989461B2
DMSO (65 mL) was added to a vial containing 5-hydroxy-6-methylisoquinolin-1(2H)-one (5.50 g, 31.4 mmol) and 4-(2-chloropyridin-3-yl)-N-methylpyrimidin-2-amine (6.93 g, 31.4 mmol). Cesium carbonate (30.7 g, 94.2 mmol) was added to the vial, and the vial was sealed and heated to 130° C. for 16 hours. The vial was allowed to cool to ambient temperature and the mixture was diluted with water (˜1 L) and neutralized with AcOH. The precipitate was filtered to afford 6-methyl-5-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)isoquinolin-1(2H)-one. MS (M+H)+ 360.

reactant | DMSO | 65 mL | CS(=O)C | C2H6OS
reactant | 5-hydroxy-6-methylisoquinolin-1(2H)-one | 31.4 mmol, 5.50 g | OC1=C2C=CNC(C2=CC=C1C)=O | C10H9NO2
reactant | 4-(2-chloropyridin-3-yl)-N-methylpyrimidin-2-amine | 31.4 mmol, 6.93 g | ClC1=NC=CC=C1C1=NC(=NC=C1)NC | C10H9ClN4
reactant | Cesium carbonate | 94.2 mmol, 30.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | ˜1 L | O | H2O
solvent | AcOH | CC(=O)O | C2H4O2
product | 6-methyl-5-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)isoquinolin-1(2H)-one | CC=1C(=C2C=CNC(C2=CC1)=O)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C20H17N5O2
